US08283353B2
4′-(1-hydroxyethyl)biphenyl-2-carbonitrile
To a solution of 4′-formylbiphenyl-2-carbonitrile (10.00 g) in tetrahydrofuran (100 mL) was slowly added dropwise a 1 M solution (50 mL) of methylmagnesium bromide in tetrahydrofuran at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into 1 M hydrochloric acid (60 mL), and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a pale-yellow oil (10.03 g, 93%).

reactant | 4′-formylbiphenyl-2-carbonitrile | 10.00 g | C(=O)C1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H9NO
reactant | methylmagnesium bromide | C[Mg]Br
reactant | hydrochloric acid | 1 M, 60 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4′-(1-hydroxyethyl)biphenyl-2-carbonitrile | 10.03 g, 93% | OC(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C15H13NO
